US08383657B2
3-(6-chloropyridin-3-yl)-4,5-dimethyl-1,3-thiazol-2(3H)-imine hydrochloride
The title compound was prepared from 5-amino-2-chloropyridine hydrochloride and 3-thiocyano-2-butanone as described for Example 160A.

reactant | 5-amino-2-chloropyridine hydrochloride | Cl.NC=1C=CC(=NC1)Cl
reactant | 3-thiocyano-2-butanone | S(C#N)C(C(C)=O)C | C5H7NOS
product | 3-(6-chloropyridin-3-yl)-4,5-dimethyl-1,3-thiazol-2(3H)-imine hydrochloride | Cl.ClC1=CC=C(C=N1)N1C(SC(=C1C)C)=N | InChI=1S/C10H10ClN3S.ClH/c1-6-7(2)15-10(12)14(6)8-3-4-9(11)13-5-8;/h3-5,12H,1-2H3;1H
